 *  C:/Users/merch/OneDrive/Documents/LTSpice/RF/impedanceTransformers/imp_transfx/bw_control.asc
L C 0 1.56826157181857e-07 Ipk=120 Rser=0.0 Cpar=0
Vcc N01 0 SINE(0 79.1122.3Meg) AC 1 Rser=0
Rt N01 C  5000
C1 C out 1.85147212333979e-11
RL out 0 100
C2 out 0 1.11446624977022e-10
;op
.ac lin 500 79.1Meg 122.3Meg
.backanno
.end




