 *  C:/Users/merch/OneDrive/Documents/LTSpice/RF/impedanceTransformers/imp_transfx/bw_control.asc
L C 0 3.18055289143294e-07 Ipk=120 Rser=0.0 Cpar=0
Vcc N01 0 SINE(0 97103Meg) AC 1 Rser=0
Rt N01 C  10000
C1 C out 1.163297116301e-11
RL out 0 1000
C2 out 0 2.51192689211422e-11
;op
.ac lin 500 97Meg 103Meg
.backanno
.end




